datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:15]([C:14]([H:18])([H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:7])[H:6],6.6944
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9]([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:9]([H:10])([H:11])[H:12])[H:5],29.539
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[O:11]=[C:12]=[O:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:7])[C:12]([O:11][H:6])=[O:13])([H:3])([H:4])[H:5],322.168
[C:0]([C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([O:5][C:6]([C:7]([H:20])([H:21])[H:22])=[O:8])[H:16])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([H:18])[H:19])[H:16])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:5]=[C:6]([C:7]([H:20])([H:21])[H:22])[O:8][H:17],183.2592
[H:0][H:1].[N:2]=[C:3]=[O:4]>>[H:0].[H:1][N:2]=[C:3]=[O:4],16.6105
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:26]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:26],18.706664
[C:0]([O:1][H:4])([H:2])[H:3].[C:5]([O:6][H:9])([H:7])[H:8]>>[C:0]([O:1][H:4])([H:2])([H:3])[H:9].[C:5](=[O:6])([H:7])[H:8],0.0
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25](=[C:26][C:27](=[C:28]([H:32])[H:33])[H:31])([H:29])[H:30]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][C:26](=[C:25]([H:29])[H:30])[C:27](=[C:28]([H:32])[H:33])[H:31],39.3296
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([C:13]([H:17])([H:18])[H:19])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:14])[H:7])([H:5])[H:6].[C:12]([C:13]([H:17])([H:18])[H:19])([H:15])[H:16],93.7216
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:15]([C:14](=[C:13]([H:17])[H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20],26.3592
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[O:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:15][O:18],11.572944
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([C:14]([S:15][H:21])[C:16](=[S:17])[H:22])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14]([C:13]([H:18])([H:19])[H:20])([S:15][H:21])[C:16](=[S:17])[H:22],35.1456
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[O:11][H:12]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[H:7][O:11][H:12],4.3965472
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](=[C:12]([C:13]([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])[H:5],78.4082
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([S:8][H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([H:4])([H:5])[S:8][C:7]([C:6]([H:9])([H:10])[H:11])([H:12])[H:13])([H:2])([H:3])[H:14],172.799
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16],4.184
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]1([H:18])([H:19])[C:12]([H:20])([H:21])[C:13]2([H:22])[C:14]([H:23])([H:24])[C:15]([H:25])([H:26])[C:16]1([H:27])[C:17]2([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:22])[H:6].[C:11]1([H:18])([H:19])[C:12]([H:20])([H:21])[C:13]2[C:14]([H:23])([H:24])[C:15]([H:25])([H:26])[C:16]1([H:27])[C:17]2([H:28])[H:29],81.588
[C:0]([C:1]([O:2][O:3][H:8])[H:7])([H:4])([H:5])[H:6]>>[C:0]([C:1](=[O:2])[H:7])([H:4])([H:5])[H:6].[O:3][H:8],4.096136
